US09334286B2
Preparation 43: Racemic 3-Chloro-6-(1-(2,3-dimethoxypropyl)-1H-pyrazol-4-yl)isoquinoline
NaH (60%, 3.5 mg) was added to a solution of racemic 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-3-methoxypropan-2-ol (Preparation 36, 20 mg, 0.063 mmol) in THF (4 mL). After stirring for 15 minutes, iodomethane (20 uL, 0.32 mmol) was added. The resulting solution was stirred at 60° C. under microwave irradiation for 60 minutes. The reaction mixture was extracted with EtOAc, dried over sodium sulphate and concentrated in vacuo. The residue was used in the next step without further purification.

reactant | NaH | 3.5 mg | [H-].[Na+]
reactant | racemic 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-3-methoxypropan-2-ol | 0.063 mmol, 20 mg | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(COC)O | C16H16ClN3O2
reactant | iodomethane | 0.32 mmol, 20 uL | IC | CH3I
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Racemic 3-Chloro-6-(1-(2,3-dimethoxypropyl)-1H-pyrazol-4-yl)isoquinoline | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(COC)OC | C17H18ClN3O2
